US07989444B2
Preparation 22: 1-[8-Hydroxy-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]ethanone
To a solution of 1,1-dimethylethyl 7-(methyloxy)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (15 mmol, preparation reported in WO 02/40471) in DCM (30 ml) TFA (10 eq) was added at room temperature, the reaction mixture was stirred for 4 h. Solvent was removed under vacuum, residue was dissolved in DCM (30 ml) and Et3N (2 eq) and trifluoroacetic anhydride (1.3 eq) was added at 0° C. The reaction mixture was stirred at room temperature for 3 h. Aqueous saturated NaHCO3 was added and the mixture was extracted with DCM (3×30 ml). The combined organic layers were concentrated and residue dissolved in dichloroethane (10 ml) was added at 0° C. to a previously prepared suspension of AlCl3 (2 eq) and acetyl chloride (1.04 eq) in dichloroethane (20 ml). The reaction mixture was stirred at room temperature for 16 h, quenched with HCl (1 M) and extracted with DCM (3×30 ml) The combined organic layers were concentrated and the residue was dissolved in DCM (30 ml) and BCl3 (22.5 mmol, 1 M in DCM) was added at −78° C. The reaction mixture was stirred at −78° C. for 30 min then at room temperature for 1 h. Aqueous HCl (1 M, 20 ml) was added and the mixture was extracted twice with DCM. The combined organic layers were concentrated and submitted to column chromatography to provide the title compound (9.7 mmol) as a yellow oil.

reactant | 1,1-dimethylethyl 7-(methyloxy)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 15 mmol | COC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23NO3
reactant | DCM | 30 ml, 10 eq | C(Cl)Cl | CH2Cl2
reactant | Et3N | 2 eq | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.3 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | AlCl3 | 2 eq | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 1.04 eq | C(C)(=O)Cl | C2H3ClO
reactant | BCl3 | 22.5 mmol, 1 M | B(Cl)(Cl)Cl | BCl3
reactant | HCl | 1 M, 20 ml | Cl | ClH
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 1-[8-Hydroxy-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]ethanone | 9.7 mmol | OC=1C(=CC2=C(CCN(CC2)C(C(F)(F)F)=O)C1)C(C)=O | C14H14F3NO3
